US08754114B2
Step 3: tert-butyl 4-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate
The mixture of N-[3-(5-bromo-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (1.0000 g, 2.4202 mmol) (prepared from the procedure of Example 1, step 4), tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (1.1 g, 2.8 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (1:1) (0.1 g, 0.1 mmol, Aldrich, Cat. No. 697360) and sodium carbonate (510 mg, 4.8 mmol) in 1,4-dioxane (10 mL) and a few drops of water was heated at 120° C. under nitrogen overnight. After the reaction mixture was cooled to r.t, it was filtered, and the solid was washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was purified by flash column chromatography on a silica gel column using 6% MeOH CH2Cl2 as eluent to afford the desired compound (0.48 g, 34%). LCMS (M+H)+: m/z=584.2.

reactant | N-[3-(5-bromo-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 2.4202 mmol, 1.0000 g | BrC1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1 | C16H12BrF3N4O
reactant | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 2.8 mmol, 1.1 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium carbonate | 4.8 mmol, 510 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | water | a few drops | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-butyl 4-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.48 g, 34% | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C29H32F3N7O3
